US04705797
A solution of 3.94 g of methyl 2-chloroethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate and 4.78 g of 1,N-dimethyl-3,3-diphenylpropylamine in 12 ml of toluene was refluxed under stirring for 25 hours. Upon completion of the reaction the mixture was diluted with diethyl ether and the l,N-dimethyl-3,3-diphenylpropylamine hydrochloride formed was collected by filtration. The filtrate was then evaporated, and the crude product thus obtained was purified by repeated chromatography on silica gel, using first chloroform, then chloroform: ethyl acetate (85:15 by volume) and lastly ethyl acetate as eluent. The purified product was dissolved in methanol and ethanolic hydrogen chloride was added. The solution was filtered and evaporated to dryness. Repeated washings with warm diethyl ether: acetone (98:2 by volume) afforded 2.98 g of the title compound, m.p. 113°-120° C.

reactant | methyl 2-chloroethyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 3.94 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCl)C | C18H19ClN2O6
reactant | 1,N-dimethyl-3,3-diphenylpropylamine | 4.78 g | CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)NC | C17H21N
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | l,N-dimethyl-3,3-diphenylpropylamine hydrochloride | Cl.CC(CC(C1=CC=CC=C1)C1=CC=CC=C1)NC | InChI=1S/C17H21N.ClH/c1-14(18-2)13-17(15-9-5-3-6-10-15)16-11-7-4-8-12-16;/h3-12,14,17-18H,13H2,1-2H3;1H
